US04592866
8-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one
To a solution of 10.4 g (0.26 mole) of sodium hydroxide in 150 ml of water was added 32 g (0.13 mole) of 4-chloro-2-[(1-methyl-3-pyrrolidinyl)oxy]benzamide and the mixture was heated at reflux for 24 hr. The reaction mixture was adjusted to pH 6 with concentrated hydrochloric acid and filtered and the filtrate concentrated. The residue was boiled with 100 ml of isopropyl alcohol and the mixture filtered. The filtrate was concentrated and heated at reflux with 98 g (0.83 mole) of thionyl chloride for 1 hr. The excess thionyl chloride was evaporated under reduced pressure. The residue was dissolved in 70 ml of chloroform and the solvent evaporated under reduced pressure. The residue was redissolved in 75 ml of chloroform and 40 ml of triethylamine was added gradually. The mixture was heated at reflux for 1 hr. The solvent was evaporated under reduced pressure to give a dark-brown solid. The solid was dissolved in ethyl acetate and the resulting solution washed twice with 200 ml of water and twice with 250 ml of 20% sodium hydroxide. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give 21 g (59%) of dark-brown solid. The solid was recrystallized from isopropyl alcohol to give the title compound, m.p. 85°-87° C.

reactant | sodium hydroxide | 0.26 mole, 10.4 g | [OH-].[Na+]
reactant | 4-chloro-2-[(1-methyl-3-pyrrolidinyl)oxy]benzamide | 0.13 mole, 32 g | ClC1=CC(=C(C(=O)N)C=C1)OC1CN(CC1)C | C12H15ClN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | thionyl chloride | 0.83 mole, 98 g | S(=O)(Cl)Cl | Cl2OS
solvent | water | 150 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one | 21 g, 59% | ClC1=CC2=C(C(N(CC(O2)CCCl)C)=O)C=C1 | C12H13Cl2NO2
